US08871767B2
N-(5-(6-(2-fluorophenyl)-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide
To a mixture of N-(5-(6-chloro-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide (0.100 g, 0.280 mmol), 4-fluorophenylboronic acid (0.420 mmol), Na2CO3 (0.840 mmol), 2-propanol (9 mL) and water (3 mL) that has been degassed with N2 (5 minutes) is added PdCl2(PPh3)2(0.0280). The mixture is heated at 80° C. for 12 hours, diluted with sat. aqueous NaHCO3 (50 mL) and extracted with EtOAc (3×25 mL). Organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude product is purified via chromatography using a gradient of hexanes to EtOAc to afford the title compound (0.073 g, 62%) as a yellow solid: Rf 0.29 (1:1 EtOAc:hexanes); LCMS (m/z)=417.5 [M+H]+, tR=2.71 min. (compound same as Example 312)

reactant | N-(5-(6-chloro-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 0.280 mmol, 0.100 g | ClC=1C=CC=2N(N1)C(=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C)C | C19H21ClN4O
reactant | 4-fluorophenylboronic acid | 0.420 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 0.840 mmol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-propanol | 9 mL | CC(C)O | C3H8O
solvent | water | 3 mL | O | H2O
product | N-(5-(6-(2-fluorophenyl)-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 0.073 g, 62% | FC1=C(C=CC=C1)C=1C=CC=2N(N1)C(=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C)C | C25H25FN4O
